US06242443B1
a) 6,7-Dichloro-3-(imidazol-1-yl)-4H-1,2,4-benzothiadiazine 1,1-dioxide monohydrate
A mixture of 2-amino-4,5-dichlorobenzenesulfonamide (10 g) and thiocarbonyldiimidazole (22 g) in dioxane (160 mL) was refluxed for 2-3 h. The solvent was removed by distillation under reduced pressure and the residue was dispersed in water (100 mL). The addition of an aqueous solution of NaOH (16 g/160 mL) gave a solution which, after cooling, abundantly precipitated the crystalline sodium salt of the title compound. The salt was collected by filtration and dissolved in a 1:2 mixture of methanol and water (300 mL), treated with charcoal, filtered, and the filtrate was adjusted to pH 2 with 12N HCl. The precipitate was collected by filtration, washed with water and dried (yield: 11.3 g); m.p.: 312-315° C.

reactant | 2-amino-4,5-dichlorobenzenesulfonamide | 10 g | NC1=C(C=C(C(=C1)Cl)Cl)S(=O)(=O)N | C6H6Cl2N2O2S
reactant | thiocarbonyldiimidazole | 22 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
solvent | dioxane | 160 mL | O1CCOCC1 | C4H8O2
product | 6,7-Dichloro-3-(imidazol-1-yl)-4H-1,2,4-benzothiadiazine 1,1-dioxide monohydrate | O.ClC=1C(=CC2=C(NC(=NS2(=O)=O)N2C=NC=C2)C1)Cl | InChI=1S/C10H6Cl2N4O2S.H2O/c11-6-3-8-9(4-7(6)12)19(17,18)15-10(14-8)16-2-1-13-5-16;/h1-5H,(H,14,15);1H2
